data/oMe_Silver.jsonl
{"reaction_id": "NR-331_1-C_2-CC_3-C(C)C_4-c1ccc(N(C)C)cc1_5-CC","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(CC)(C(C)C)C(=O)OC","O=C(c1ccc(N(C)C)cc1)CC","[Zn]"],"products_smiles": ["C(C(O)(c1ccc(N(C)C)cc1)CC)(CC)(C(C)C)C(=O)OC"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "COC(=O)C(CC)(C(C)C)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(c1ccc(N(C)C)cc1)CC)(CC)(C(C)C)C(=O)OC.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(c1ccc(N(C)C)cc1)CC)(CC)(C(C)C)C(=O)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
{"reaction_id": "NR-107_1-C(F)(F)F_2-c1cnccc1_3-CC_4-CC(C)C_5-c1ccccc1_6-CCCC_7-c1ccccc1C","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(C(F)(F)F)(c1cnccc1)C(CC)(CC(C)C)[N+](c1ccccc1)(CCCC)c1ccccc1C","[OH-]"],"products_smiles": ["C(=C(CC)CC(C)C)(C(F)(F)F)c1cnccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(CC)CC(C)C)(C(F)(F)F)c1cnccc1","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
{"reaction_id": "NR-002_1-C_2-C#N","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(C)CC#N","C(=O)(C)CC#N"],"products_smiles": ["C(=O)(C)C(C#N)C(O)(CC#N)C"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=CC#N)(O)C","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(C)CC#N","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C)C(C#N)C(O)(CC#N)C","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(C)C(C#N)C(O)(CC#N)C","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
